US05440044
2-{6-[(1E)-(3RS)-3-Hydroxy-1-undecenyl]-2-pyridyloxy)-acetic acid
Under the conditions of example 2, 25 mg of 2-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyloxy)-acetic acid methyl ester in 1.5 ml of methanol is saponified with 1.5 ml of 1 n sodium hydroxide solution and worked up. 20 mg of the title compound is obtained as bright yellow oil.

reactant | 2-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyloxy)-acetic acid methyl ester | 25 mg | COC(COC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O)=O | C19H29NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
product | 2-{6-[(1E)-(3RS)-3-Hydroxy-1-undecenyl]-2-pyridyloxy)-acetic acid | 20 mg | OC(/C=C/C1=CC=CC(=N1)OCC(=O)O)CCCCCCCC | C18H27NO4
